US08445480B2
Step A. tert-Butyl 4-(aminocarbonyl)-4-isopropylpiperidine-1-carboxylate
To a solution of 1-(tert-butoxycarbonyl)-4-isopropylpiperidine-4-carboxylic acid (500 mg, 1.843 mmol) in dichloromethane (5 ml) were added oxalyl chloride (2.76 ml, 5.53 mmol) and a drop (ca. 10 μl) of dimethylformamide. After stirring 1 h at room temperature, the mixture was concentrated and then dissolved in tetrahydrofuran (5 ml). Concentrated ammonium hydroxide (5 ml, 36.0 mmol) was added and the mixture was stirred overnight at room temperature, and then concentrated to a small volume, poured into 50 ml of 1 M NaOH, and diluted with 50 ml of ethyl acetate. The phases were separated, the aqueous was extracted with 2×25 ml of ethyl acetate, and then the combined organics were washed with 25 ml of brine, dried (Na2SO4), and concentrated to provide the title compound (411 mg, 1.520 mmol, 82% yield). Mass spectrum (ESI) 174.0 (M-Boc).

reactant | 1-(tert-butoxycarbonyl)-4-isopropylpiperidine-4-carboxylic acid | 1.843 mmol, 500 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)(C(=O)O)C(C)C | C14H25NO4
reactant | oxalyl chloride | 5.53 mmol, 2.76 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylformamide | ca. 10 μl | CN(C=O)C | C3H7NO
reactant | ammonium hydroxide | 36.0 mmol, 5 ml | [OH-].[NH4+]
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | tert-Butyl 4-(aminocarbonyl)-4-isopropylpiperidine-1-carboxylate | 1.520 mmol, 411 mg, 82% yield | NC(=O)C1(CCN(CC1)C(=O)OC(C)(C)C)C(C)C | C14H26N2O3
